US06107329
(S)-[1-(4-Hydroxy-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester
4-Hydroxypiperidine (3.9 mmol) and Boc-L-tyrosine (3.7 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, 60 hour reaction time) with the following workup: the reaction mixture was diluted with ethyl acetate and washed once with base, the base layer was acidified with 2 N HCl and extracted three times with chloroform, and the chloroform extracts concentrated. The resulting foam was purified by chromatography on silica gel eluted with 1-8% ethanol in dichloromethane containing 0.5% NH4OH. Yield 550 mg, 41%; HPLC (40/60) 5.02 minutes (87%).

reactant | 4-Hydroxypiperidine | 3.9 mmol | OC1CCNCC1 | C5H11NO
reactant | Boc-L-tyrosine | 3.7 mmol | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-[1-(4-Hydroxy-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)O)=O | C19H28N2O5
